US08198453B2
5-chloro-2-methylbenzenamine (50 g, 0.355 mol) was dissolved in HBr solution (1.5 M, 100 mL) and cooled to 0° C., a solution of NaNO2 (27.6 g, 0.4 mol) in water (200 mL) was added dropwise. After addition, the mixture was stirred for 1 hr. In another flask CuBr (30 g, 0.21 mol) was added to HBr solution (1.5 M, 30 mL) and heated to 60° C., then the mixture was added to the above solution. The mixture was heated to reflux for 1 hr then cooled to rt. The reaction was quenched with water (500 mL), the aqueous layer was extracted 3 times with CH2Cl2, dried over Na2SO4, solvent removal and purification by column chromatography afforded 2-bromo-4-chloro-1-methylbenzene (53 g, 0.26 mol). 1H NMR (CDCl3, 400 MHz) δ 7.53 (s, 1H), 7.20-7.10 (m, 2H), 2.36 (s, 3H).

reactant | 5-chloro-2-methylbenzenamine | 0.355 mol, 50 g | ClC=1C=CC(=C(C1)N)C | C7H8ClN
reactant | NaNO2 | 0.4 mol, 27.6 g | N(=O)[O-].[Na+]
reactant | HBr | 1.5 M, 100 mL | Br | BrH
reactant | HBr | 1.5 M, 30 mL | Br | BrH
solvent | water | 200 mL | O | H2O
product | 2-bromo-4-chloro-1-methylbenzene | 0.26 mol, 53 g | BrC1=C(C=CC(=C1)Cl)C | C7H6BrCl
